US05753664
1-[4-(4-Chlorobenzoyl)benzyl]-5-methyl-7-chloro-imidazo[4,5-d]pyridazin-4(5H)-one
The procedure of Example 32 was repeated except that 1-[4-(4-chlorobenzoyl)benzyl]-7-chloroimidazo[4,5-d]pyridazin-4(5H)-one was used as the starting compound. Thus, this starting compound (424 mg) was dissolved in DMF (7 ml) followed by addition of potassium carbonate (465 mg). Then, methyl iodide (0.2 ml) was added and the mixture was stirred at room temperature for 65 hours. To this reaction mixture was added water (50 ml) and the resulting crystals were harvested by filtration. This crystal crop was purified by silica gel column chromatography (stationary phase 30 g; ethyl acetate: methanol=1:0-20:1) to provide 218 mg (50%) of the title compound. 1H-NMR (CDCl3) δ: 3.87(3H,s), 5.74(2H,s), 7.23(2H,d,J=8.4Hz), 7.46(2H,d,J=8.4Hz), 7.72(2H,d,J=8.6Hz), 7.78(2H,d,J=8.2Hz), 8.01(1H,s).

reactant | 1-[4-(4-chlorobenzoyl)benzyl]-7-chloroimidazo[4,5-d]pyridazin-4(5H)-one | ClC1=CC=C(C(=O)C2=CC=C(CN3C=NC4=C3C(=NNC4=O)Cl)C=C2)C=C1 | C19H12Cl2N4O2
reactant | potassium carbonate | 465 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.2 ml | CI | CH3I
reactant | water | 50 ml | O | H2O
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | 1-[4-(4-Chlorobenzoyl)benzyl]-5-methyl-7-chloro-imidazo[4,5-d]pyridazin-4(5H)-one | 218 mg, 50% | ClC1=CC=C(C(=O)C2=CC=C(CN3C=NC4=C3C(=NN(C4=O)C)Cl)C=C2)C=C1 | C20H14Cl2N4O2
